US07504404B2
5-(5-{5-[3-(2,2,2-Trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-yl}-[1,2,4]oxadiazol-3-yl)-thiophene-2-sulfonic acid amide
The title compound was prepared from 5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.10) (237 mg, 0.5 mmol) and N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine (example B.2) (166 mg, 0.75 mmol) according to general procedure II. Obtained after purification by flash chromatography (ethyl acetate/hexane) and crystallization (dichloromethane) as a yellow solid (220 mg, 67%). MS. (ISP) 659.3 [(M+H)+]; mp 255° C.

reactant | 5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.5 mmol, 237 mg | FC(COC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O)(F)F | C17H8F9N3O3
reactant | N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine | 0.75 mmol, 166 mg | ONC(=N)C=1SC(=CC1)S(N)(=O)=O | C5H7N3O3S2
product | 5-(5-{5-[3-(2,2,2-Trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-yl}-[1,2,4]oxadiazol-3-yl)-thiophene-2-sulfonic acid amide | FC(COC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=NC(=NO2)C2=CC=C(S2)S(=O)(=O)N)(F)F | C22H11F9N6O4S2
